US05589489
(3R)-3-[(1S)-1-(3,4-Dichlorophenyl)-3-(4-(2-oxopiperidino)piperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride.
A solution of (3S)-3-(3,4-Dichlorophenyl)-3-((1R)-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.596 g) was treated with 4-(2-oxopiperidino)piperidine (0.311 g) as described in Example 8. The resulting material was not purified by chromatography but was transformed into the hydrochloride to afford the title compound (0.51 g); [α]D =28° (c=1.0 Ethanol); mp 150°-160° C. (dec); MS: m/z=514(M+1); NMR(CD3SOCD3): 1.69 (broad, 5), 2.23 (broad, 3), 3.06 (s,3), 4.57 (m, 1), 4.87 (d,1, J=3.7), 6.75 (dd,1, J=8.4, 2), 6.96 (d,1, J=2), 7.33 (d,1, J=8), 7.50 (m,2), 7.62 (m,1), 7.92 (d,1, J=7.6). Analysis for C28H33Cl2N3O2 ·1.5 HCl·H2O: Calculated: C, 57.27; H, 6.26; N, 7.16; Found: C, 57.24; H, 6.15; N, 7.26.

reactant | (3S)-3-(3,4-Dichlorophenyl)-3-((1R)-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.596 g | ClC=1C=C(C=CC1Cl)[C@H](CC=O)[C@H]1N(C(C2=CC=CC=C12)=O)C | C18H15Cl2NO2
reactant | 4-(2-oxopiperidino)piperidine | 0.311 g | O=C1N(CCCC1)C1CCNCC1 | C10H18N2O
product | (3R)-3-[(1S)-1-(3,4-Dichlorophenyl)-3-(4-(2-oxopiperidino)piperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.51 g | Cl.ClC=1C=C(C=CC1Cl)[C@H](CCN1CCC(CC1)N1C(CCCC1)=O)[C@H]1N(C(C2=CC=CC=C12)=O)C | InChI=1S/C28H33Cl2N3O2.ClH/c1-31-27(22-6-2-3-7-23(22)28(31)35)21(19-9-10-24(29)25(30)18-19)13-17-32-15-11-20(12-16-32)33-14-5-4-8-26(33)34;/h2-3,6-7,9-10,18,20-21,27H,4-5,8,11-17H2,1H3;1H/t21-,27+;/m0./s1
